US07304161B2
To a round bottom flask equipped with magnetic stirring was added ethyl acetate (7 mL), 25 wt % aqueous potassium carbonate solution (2.03 g, 3.67 mmol), and 3-(tert-butyldimethylsilyloxymethyl)-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carboxylic acid N′-tert-butyl hydrazide (0.50 g, 1.22 mmol). To this was added 3,5-dimethylbenzoyl chloride (0.31 g, 1.84 mmol). Stirring was continued for 18 hours. The reaction was diluted with ethyl acetate and the phases separated. The organic phase was washed once with water, once with saturated aqueous sodium chloride, dried over magnesium sulfate, filtered and evaporated. The residue was flash chromatographed on silica gel eluting with 20% ether/hexane, then 50% ether/hexane to give a white solid, 3,5-dimethylbenzoic acid N-tert-butyl-N′-[3-(tert-butyldimethylsiloxymethyl)-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carbonyl]-hydrazide, (0.50 g, 0.92 mmol) in 76% yield. 1H-NMR (300 MHz, CD3COCD3) δ (ppm): 0.10 (s, 6H), 0.90 (s, 9H), 1.59 (s, 9H), 1.89 (s, 3H), 2.25 (s, 6H), 3.92 (m, 2H), 4.05 (m, 1H), 4.22 (m, 1H), 4.34 (m, 1H), 6.33 (d, 1H), 6.56 (d, 1H), 7.02 (s, 1H), 7.13 (s, 2H), 9.49 (s, 1H); TLC: Rf=0.30 (1:1 ether/hexane).

reactant | potassium carbonate | 3.67 mmol, 2.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(tert-butyldimethylsilyloxymethyl)-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carboxylic acid N′-tert-butyl hydrazide | 1.22 mmol, 0.50 g | C(C)(C)(C)NNC(=O)C1=C(C2=C(OCC(O2)CO[Si](C)(C)C(C)(C)C)C=C1)C | C21H36N2O4Si
reactant | 3,5-dimethylbenzoyl chloride | 1.84 mmol, 0.31 g | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
reactant | ether hexane | CCOCC.CCCCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 7 mL | C(C)(=O)OCC | C4H8O2
product | 3,5-dimethylbenzoic acid N-tert-butyl-N′-[3-(tert-butyldimethylsiloxymethyl)-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carbonyl]-hydrazide | 0.92 mmol, 0.50 g, 76% yield | C(C)(C)(C)N(NC(=O)C1=C(C2=C(OCC(O2)CO[Si](C)(C)C(C)(C)C)C=C1)C)C(C1=CC(=CC(=C1)C)C)=O | C30H44N2O5Si
